US07034015B2
N-(2-{[3-Chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-2-phenoxy-acetamide (Compound 188)
A solution of 2-phenoxyacetic acid (75 mg, 0.49 mmol), thionylchloride (72 μL, 1.0 mmol) and one drop of DMF in toluene (2.0 mL) was refluxed for 30 min. The reaction mixture was concentrated in vacuo and the resulting crude acid chloride was dissolved in dry DCM (2.0 ml). The solution was added slowly to a cooled (0° C.) solution of {2-chloro-4-[(2-aminophenyl)amino]phenyl}(2-methylphenyl)methanone (0.150 g, 0.45 mmol) (disclosed in WO 98/32730) and triethylamine (135 mg, 1.33 mmol) in dry DCM (5.0 ml). The solution was allowed to reach room temperature. The reaction mixture was stirred for 3 h and then poured into a mixture of NaHCO3 (aq.) and EtOAc. The aqueous phase was extracted with more EtOAc (×2). The combined organic phases were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by flash chromatography using DCM as the eluent to afford the title compound as a yellow oil.

reactant | 2-phenoxyacetic acid | 0.49 mmol, 75 mg | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | thionylchloride | 1.0 mmol, 72 μL | S(=O)(Cl)Cl | Cl2OS
reactant | {2-chloro-4-[(2-aminophenyl)amino]phenyl}(2-methylphenyl)methanone | 0.45 mmol, 0.150 g | ClC1=C(C=CC(=C1)NC1=C(C=CC=C1)N)C(=O)C1=C(C=CC=C1)C | C20H17ClN2O
reactant | triethylamine | 1.33 mmol, 135 mg | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 5.0 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-{[3-Chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-2-phenoxy-acetamide | ClC=1C=C(C=CC1C(C1=C(C=CC=C1)C)=O)NC1=C(C=CC=C1)NC(COC1=CC=CC=C1)=O | C28H23ClN2O3
